US07504508B2
4-(2-Hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (0.119 g, 0.52 mmol) was dissolved in toluene at room temperature with PPh3 (0.136 g, 0.52 mmol), then added (2S,4R)-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (0.150 g, 0.35 mmol) and stirred for 5 min. DEAD (0.090 g, 0.52 mmol) was added and the reaction was stirred for 18 h at room temperature. The reaction was concentrated and purified by silica gel chromatography (45% CH2Cl2 /55% EtOAc) to afford (2S,4R)-4-[2-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (0.2 g, 90%)

reactant | 4-(2-Hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 0.119 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | PPh3 | 0.52 mmol, 0.136 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (2S,4R)-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.35 mmol, 0.150 g | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | DEAD | 0.52 mmol, 0.090 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2S,4R)-4-[2-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.2 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C | C37H44ClN3O5
